US08629271B2
b) 5-(2-(tert-Butyldimethylsilyloxy)ethyl)-2-fluorobenzaldehyde
sec-Butyllithium (1.4M in cyclohexane, 2.78 ml) was added to dry tetrahydrofuran (10 mL) under nitrogen and the solution cooled to −78° C. N1-(2-(dimethylamino)ethyl)-N1,N2,N2-trimethylethane-1,2-diamine (0.674 g) was added slowly dropwise. A solution of tert-butyl(4-fluorophenethoxy)dimethylsilane (example 100, step a) (0.99 g) in dry tetrahydrofuran (3 mL) was then added dropwise over 5 minutes. Reaction mixture stirred for 2 hours at −78° C. DMF (2.1 ml) was added dropwise over 5 minutes and the mixture stirred at −78° C. for 1 hour followed by room temperature for 45 minutes. The reaction mixture was quenched by addition of water. Ethyl acetate (200 mL) was added and the organic washed three times with water, followed by twice with 2M HCl and then twice with water. The organic solution was washed with brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The crude product was purified by flash silica chromatography using 2% ethyl acetate in isohexane as solvent. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 0.5 g.

reactant | sec-Butyllithium | 1.4M, 2.78 ml | C(C)(CC)[Li]
reactant | N1-(2-(dimethylamino)ethyl)-N1,N2,N2-trimethylethane-1,2-diamine | 0.674 g | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | tert-butyl(4-fluorophenethoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OCCC1=CC=C(C=C1)F | C14H23FOSi
reactant | DMF | 2.1 ml | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-(2-(tert-Butyldimethylsilyloxy)ethyl)-2-fluorobenzaldehyde | [Si](C)(C)(C(C)(C)C)OCCC=1C=CC(=C(C=O)C1)F | C15H23FO2Si
